Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins / vancomycin / 
Levaquin / clindamycin / codeine
 
Attending: ___
 
Chief Complaint:
"Right neck lump"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ F PMHx pAfib, HTN, Sjogren's presenting 
with
a neck mass. 

Patient reports that she first noticed swelling around 12 days
ago on the right side of her neck. The swelling was progressive.
It was associated with very mild pain, worse with swallowing. 
She
has not had any fevers or chills. 

On review of records, patient was first seen in clinic for her
neck mass on ___. She had an ultrasound on ___ that showed
likely an enlarged right submandibular gland replaced by a solid
mass with cystic spaces and scattered internal vascularity. She
then had an MRI which showed that the mass was consistent with 
an
abscess. She had an ENT appointment on ___. She was found to
have an approximately 4cm mass. Aspiration of 5 cc of brown
purulence was done. FNA was then performed with 2 passes. She 
was
sent to the ED for antibiotics. 

She is followed by rheumatology for Sjogrens disease. She has 
had
a positive SSB, cytopenias, and cryoglobulemia with small vessel
vasculitis. There has also been concern for overlap with lupus
given low complement levels.

Re her afib, she is not on anticoagulation. She is on dilt and a
full-dose aspirin. She states that she only was found to be in
afib once while hospitalized for cellulitis. She gets a monitor
around twice a year that has not shown any further episodes. 
 
Past Medical History:
Atrial fibrillation (paroxysmal)
HTN
Sjo___
 
Social History:
___
Family History:
-Brother-alive
-Father-deceased at age ___, heart disease
-Mother-thyroid disorder
-___ uncle-breast cancer
-Sister-ovarian cancer, thyroid disorder
 
Physical Exam:
GEN: NAD
HENT: palpable R mandibular mass, non-tender, no drainage,
unremarkable oropharynx
CV: RRR, no murmurs, no JVD
RESP: non-labored, good air entry, no crackles, no wheezes
GI: soft, non-distended, non-tender, normal bowel sounds
GU: no suprapubic tenderness
EXT: no edema
SKIN: no rash
NEURO: alert, oriented x4
PSYCH: calm
 
Pertinent Results:
___ 07:20AM BLOOD WBC-11.4* RBC-3.87* Hgb-11.5 Hct-35.8 
MCV-93 MCH-29.7 MCHC-32.1 RDW-12.0 RDWSD-40.9 Plt ___
___ 07:20AM BLOOD Glucose-66* UreaN-17 Creat-0.7 Na-139 
K-3.9 Cl-100 HCO3-22 AnGap-___ yo F with hx of pAfib, HTN, Sjogren's, presented with right 
submandibular abscess (confirmed on outpt MRI), which had been 
present for 12 days. She had outpatient aspiration by ENT (Dr. 
___, who removed 5cc brown fluid for culture. She was 
then sent to the hospital for antibiotics. The patient received 
2 days ceftriaxone and metronidazole (multiple drug allergies 
considered). The patient stated that her right submandibular 
mass was slightly smaller and less painful. She did not have 
signs of sepsis. CXR noted possible right lower lobe 7mm nodule.

The patient was stable upon discharge. She was advised to take 
14 days of PO Keflex and PO metronidazole for her abscess. She 
was advised to follow up with Dr. ___ within 1 week for 
abscess, aspirate culture results, and possible re-imaging. She 
was advised to follow up with Dr. ___ CT chest for 
evaluation of RLL lung nodule. Risks and benefits were 
discussed, the patient verbalized understanding and agreed to 
the plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO 6X/WEEK (___) 
2. imiquimod 5 % topical weekly 
3. cevimeline 30 mg oral TID 
4. Diltiazem Extended-Release 120 mg PO BID 
5. Aspirin 325 mg PO DAILY 
6. Hydroxychloroquine Sulfate 200 mg PO DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 capsule(s) by mouth four times a day 
Disp #*56 Tablet Refills:*0 
2.  Chloraseptic Throat Spray 1 SPRY PO Q6H:PRN mouth pain 
RX *phenol [Chloraseptic Throat Spray] 1.4 %  every six (6) 
hours Disp #*1 Bottle Refills:*0 
3.  MetroNIDAZOLE 500 mg PO TID 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*42 Tablet Refills:*0 
4.  Aspirin 325 mg PO DAILY  
5.  cevimeline 30 mg oral TID  
6.  Diltiazem Extended-Release 120 mg PO BID  
7.  Hydroxychloroquine Sulfate 200 mg PO DAILY  
8.  imiquimod 5 % topical weekly  
9.  Levothyroxine Sodium 75 mcg PO 6X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Submandibular abscess
Lung nodule
Atrial fibrillation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Reason for hospitalization: Right submandible abscess

Treatment in hospital: Antibiotics

Instructions for discharge after hospital:
1) Take Keflex 4 times daily for 14 days.
2) Take metronidazole 3 times daily for 14 days.
3) Follow up with Dr. ___ (ENT) within 1 week. Plan for 
CT neck to evaluate progression/regression of abscess.
___
4) Follow up with Dr. ___. Plan for CT chest 
to evaluate for possible lung nodule.
___
 
Followup Instructions:
___